************************************************************************
* auCdl Netlist:
* 
* Library Name:  Generator_test2
* Top Cell Name: A01_TIA_Core_YJH_02
* View Name:     schematic
* Netlisted on:  Jan 12 16:29:54 2026
************************************************************************

.INCLUDE  /tools/PDK/ss28lpp_rf/Device/LNR28LPP_CDS_S00-V1.4.6.1/CDS/oa/cmos28lp/.il/devices.cdl
*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: Proj_ADC2024_00_2stageTIA_YJH
* Cell Name:    A06_INV_Size1_YJH_01_fin2
* View Name:    schematic
************************************************************************

.SUBCKT A06_INV_Size1_YJH_01_fin2 IN OUT VDD VSS
*.PININFO IN:B OUT:B VDD:B VSS:B
MN2 OUT IN VSS VSS egnfet w=1u l=0.15u nf=2.0000 pccrit=0 plorient=1 ngcon=1 p_la=0u ptwell=0
MP0 OUT IN VDD VDD egpfet w=2u l=0.15u nf=2.0000 pccrit=0 plorient=1 ngcon=1 p_la=0u ptwell=0
.ENDS

************************************************************************
* Library Name: Generator_test
* Cell Name:    A06_TG_Ron20ohm_YJH
* View Name:    schematic
************************************************************************

.SUBCKT A06_TG_Ron20ohm_YJH PASS PortA PortB VDD VSS
*.PININFO PASS:B PortA:B PortB:B VDD:B VSS:B
MP0 PortA PASSB PortB VDD egpfet w=70.0000u l=0.1500u nf=70.0000 pccrit=0 plorient=1 ngcon=1 p_la=0u ptwell=0
MN2 PortA PASS PortB VSS egnfet w=35.0000u l=0.1500u nf=70.0000 pccrit=0 plorient=1 ngcon=1 p_la=0u ptwell=0
XI3<0> PASS PASSB VDD VSS / A06_INV_Size1_YJH_01_fin2
.ENDS

************************************************************************
* Library Name: Generator_test2
* Cell Name:    A05_RParallel_RUnit
* View Name:    schematic
************************************************************************

.SUBCKT A05_RParallel_RUnit PASS PortA PortB VDD VSS
*.PININFO PASS:B PortA:B PortB:B VDD:B VSS:B
XI2 PASS net4 PortB VDD VSS / A06_TG_Ron20ohm_YJH
RR8 net4 PortA $SUB=VSS $[opppcres] r=0.926k w=0.4000u l=1.2920u pbar=1 s=44.0000 bp=3 ncr=1
.ENDS

************************************************************************
* Library Name: Generator_test2
* Cell Name:    A06_TG_Ron20ohm_YJH_schematic
* View Name:    schematic
************************************************************************

.SUBCKT A06_TG_Ron20ohm_YJH_schematic PASS PortA PortB VDD VSS
*.PININFO PASS:B PortA:B PortB:B VDD:B VSS:B
MN2 PortA PASS PortB VSS egnfet w=35.0000u l=0.1500u nf=70.0000 pccrit=0 plorient=1 ngcon=1 p_la=0u ptwell=0
MP0 PortA PASSB PortB VDD egpfet w=70.0000u l=0.1500u nf=70.0000 pccrit=0 plorient=1 ngcon=1 p_la=0u ptwell=0
XI3<0> PASS PASSB VDD VSS / A06_INV_Size1_YJH_01_fin2
.ENDS

************************************************************************
* Library Name: Generator_test2
* Cell Name:    A03_FBNetwork
* View Name:    schematic
************************************************************************

.SUBCKT A03_FBNetwork Ctrl_CFB Ctrl_TIGainA Ctrl_TIGainP<0> Ctrl_TIGainP<1> PortA PortB VDD VSS
*.PININFO Ctrl_CFB:B Ctrl_TIGainA:B Ctrl_TIGainP<0>:B Ctrl_TIGainP<1>:B
*.PININFO Ctrl_TIGainP<2>:B Ctrl_TIGainP<3>:B PortA:B PortB:B VDD:B VSS:B
CC26 net73 PortA $[hdvncap] $SUB=VSS l=6.0000u w=3.7500u botlev=17 toplev=21
CC31 net73 PortA $[hdvncap] $SUB=VSS l=6.0000u w=3.7500u botlev=17 toplev=21
CC32 PortB PortA $[hdvncap] $SUB=VSS l=6.0000u w=3.7500u botlev=17 toplev=21
CC33 PortB PortA $[hdvncap] $SUB=VSS l=6.0000u w=3.7500u botlev=17 toplev=21
XI20 Ctrl_TIGainP<0> PortB rdac VDD VSS / A05_RParallel_RUnit
XI21 Ctrl_TIGainP<1> PortB rdac VDD VSS / A05_RParallel_RUnit
RR17 rdac PortA $SUB=VSS $[opppcres] r=0.926k w=0.4400u l=1.2920u pbar=1 s=24.0000 bp=3 ncr=1
XI17 Ctrl_TIGainA PortA rdac VDD VSS / A06_TG_Ron20ohm_YJH_schematic
XI16 Ctrl_CFB net73 PortB VDD VSS / A06_TG_Ron20ohm_YJH_schematic
.ENDS

************************************************************************
* Library Name: Generator_test2
* Cell Name:    A02_TwoStageAmp
* View Name:    schematic
************************************************************************

.SUBCKT A02_TwoStageAmp VBN VBP VDD VINN VINP VOUT VSS
*.PININFO VBN:B VBP:B VDD:B VINN:B VINP:B VOUT:B VSS:B
MN33 VOUT VOUT1 VSS VSS egnfet w=70.0000u l=0.15u nf=7.0000 pccrit=0 plorient=1 ngcon=1 p_la=0u ptwell=0
MN1 VOUT1 net36 VSS VSS egnfet w=60.0000u l=0.15u nf=6.0000 pccrit=0 plorient=1 ngcon=1 p_la=0u ptwell=0
MN0 net36 net36 VSS VSS egnfet w=60.0000u l=0.15u nf=6.0000 pccrit=0 plorient=1 ngcon=1 p_la=0u ptwell=0
MN9 VBN VBN VSS VSS egnfet w=16.0000u l=0.15u nf=2.0000 pccrit=0 plorient=1 ngcon=1 p_la=0u ptwell=0
MN11 VBP VBP VBN VSS egnfet w=32.0000u l=0.15u nf=4.0000 pccrit=0 plorient=1 ngcon=1 p_la=0u ptwell=0
RR1 net37 VOUT1 $SUB=VSS $[opppcres] r=0.926k w=0.7000u l=1.4000u pbar=1 s=1 bp=3 ncr=1
RR9 net37 VOUT1 $SUB=VSS $[opppcres] r=0.926k w=0.7000u l=1.4000u pbar=1 s=1 bp=3 ncr=1
CC2 VOUT net37 $[hdvncap] $SUB=VSS l=8.0000u w=7.3500u botlev=17 toplev=31
CC1 VOUT net37 $[hdvncap] $SUB=VSS l=8.0000u w=7.3500u botlev=17 toplev=31
MP14 VOUT VBP VDD VDD egpfet w=300.0000u l=0.15u nf=20.0000 pccrit=0 plorient=1 ngcon=1 p_la=0u ptwell=0
MP1 VOUT1 VINP net38 VDD egpfet w=270.0000u l=0.15u nf=18.0000 pccrit=0 plorient=1 ngcon=1 p_la=0u ptwell=0
MP0 net36 VINN net38 VDD egpfet w=270.0000u l=0.15u nf=18.0000 pccrit=0 plorient=1 ngcon=1 p_la=0u ptwell=0
MP7 VBP VBP VDD VDD egpfet w=16.0000u l=0.15u nf=2.0000 pccrit=0 plorient=1 ngcon=1 p_la=0u ptwell=0
MP2 net38 VBP VDD VDD egpfet w=64.0000u l=0.15u nf=8.0000 pccrit=0 plorient=1 ngcon=1 p_la=0u ptwell=0
.ENDS

************************************************************************
* Library Name: Generator_test2
* Cell Name:    TIA
* View Name:    schematic
************************************************************************

.SUBCKT TIA Ctrl_CFB Ctrl_TIGainA Ctrl_TIGainP<0> Ctrl_TIGainP<1> IIN VDD VOCM VOUT VREF_TIA VSS
*.PININFO Ctrl_CFB:B Ctrl_TIGainA:B Ctrl_TIGainP<3>:B Ctrl_TIGainP<2>:B
*.PININFO Ctrl_TIGainP<1>:B Ctrl_TIGainP<0>:B IIN:B VDD:B VOCM:B VOUT:B
*.PININFO VREF_TIA:B VSS:B
RR13 VOUT net28 $SUB=VSS $[opppcres] r=0.926k w=1.4000u l=7.0000u pbar=1.0000 s=7.0000 bp=3 ncr=1
RR0 net28 TIStageOutput $SUB=VSS $[opppcres] r=0.926k w=1.2000u l=2.0000u pbar=1.0000 s=5.0000 bp=3 ncr=1
XI66 Ctrl_CFB Ctrl_TIGainA Ctrl_TIGainP<0> Ctrl_TIGainP<1> IIN TIStageOutput VDD VSS / A03_FBNetwork
CC32 VOUT net28 $[hdvncap] $SUB=VSS l=8.0000u w=9.3500u botlev=17 toplev=21
CC31 VOUT net28 $[hdvncap] $SUB=VSS l=8.0000u w=9.3500u botlev=17 toplev=21
CC30 VOUT net28 $[hdvncap] $SUB=VSS l=8.0000u w=9.3500u botlev=17 toplev=21
CC29 VOUT net28 $[hdvncap] $SUB=VSS l=8.0000u w=9.3500u botlev=17 toplev=21
CC28 VOUT net28 $[hdvncap] $SUB=VSS l=8.0000u w=9.3500u botlev=17 toplev=21
CC20 VOUT net28 $[hdvncap] $SUB=VSS l=8.0000u w=9.3500u botlev=17 toplev=21
XI77 net26 net11 VDD net28 VOCM VOUT VSS / A02_TwoStageAmp
XI12 net6 net1 VDD VREF_TIA IIN TIStageOutput VSS / A02_TwoStageAmp
.ENDS